US09079919B2
(R)—N-(3′-Amino-6′,6′-difluoro-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-6-yl)-5-cyanopicolinamide
The condensation of (R)-6′,6′-difluoro-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-3′,6-diamine (intermediate C4.2) and 5-cyanopicolinic acid yielded the title compound (51% yield) as a yellow solid. MS (ISP): m/z=414.3 [M+H]+.

reactant | (R)-6′,6′-difluoro-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-3′,6-diamine | FC1([C@@]2(N=C(COC1)N)CCOC1=CC=C(C=C12)N)F | C13H15F2N3O2
reactant | 5-cyanopicolinic acid | C(#N)C=1C=CC(=NC1)C(=O)O | C7H4N2O2
product | (R)—N-(3′-Amino-6′,6′-difluoro-6′,7′-dihydro-2′H-spiro[chroman-4,5′-[1,4]oxazepine]-6-yl)-5-cyanopicolinamide | 51% yield | NC=1COCC([C@@]2(N1)CCOC1=CC=C(C=C12)NC(C1=NC=C(C=C1)C#N)=O)(F)F | C20H17F2N5O3
